US09376418B2
Hydrochloric acid (1.75 mL, 10.5 mmol, 6.0 M in dioxane) was added to a solution of 8-[4-(3-Methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]-1,4-dioxaspiro[4.5]decan-8-ol (255 mg, 0.524 mmol) in THF (3 mL). The reaction mixture was stirred for 1 hour at room temperature, then brought to pH 8 with saturated aqueous sodium bicarbonate. The reaction mixture was extracted with EtOAc (3×), and the combined organic layers were washed with saturated aqueous sodium bicarbonate. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford 4-hydroxy-4-[4-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]cyclohexanone as a white foam. MS ESI calc'd for C23H22F3N4O2 [M+H]+ 443. found 443. 1H NMR (500 MHz, DMSO-d6) δ 10.30 (s, 1H), 8.83 (d, J=4.9 Hz, 1H), 8.56 (d, J=5.1 Hz, 1H), 8.05 (s, 1H), 8.00 (d, J=1.1 Hz, 1H), 7.62 (s, 1H), 7.49 (dd, J=5.1, 1.8 Hz, 1H), 7.29-7.26 (m, 2H), 5.68 (s, 1H), 2.77 (td, J=14.1, 6.2 Hz, 2H), 2.46-2.36 (m, 2H), 2.37 (s, 3H), 2.18 (d, J=14.5 Hz, 2H), 2.02-1.91 (m, 2H).

reactant | Hydrochloric acid | 10.5 mmol, 6.0 M, 1.75 mL | Cl | ClH
reactant | 8-[4-(3-Methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]-1,4-dioxaspiro[4.5]decan-8-ol | 0.524 mmol, 255 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=NC=C1)C1(CCC2(OCCO2)CC1)O | C25H25F3N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-4-[4-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]cyclohexanone | OC1(CCC(CC1)=O)C1=NC=CC(=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C23H21F3N4O2
